US05202321
Step 1: 5-Trifluoromethanesulfonyloxy-2-picoline
To a solution of 5 g of 3-hydroxy-6-methylpyridine in 100 mL of CH2Cl2 at 0° C. was added successively 7.7 mL of Et3N and 8.1 mL of trifluoromethanesulfonic anhydride. The reaction was stirred at room temperature for 30 minutes, then diluted with more CH2Cl2 (200 mL). The organic phase was washed successively with 1N HCl, brine, dried over MgSO4, filtered and concentrated to give after purification using flash chromatography on silica gel (hexane:EtOAc 65:35) of the title compound.

reactant | 3-hydroxy-6-methylpyridine | 5 g | OC=1C=NC(=CC1)C | C6H7NO
reactant | Et3N | 7.7 mL | CCN(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 8.1 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-Trifluoromethanesulfonyloxy-2-picoline | FC(S(=O)(=O)OC=1C=CC(=NC1)C)(F)F | C7H6F3NO3S
